US08912188B2
To a solution of methyl 3-chloro-2-(4-fluorophenyl)quinoxaline-6-carboxylate (200 mg, 0.63 mmol) in DMSO (10 mL) was added DIEA (163.3 mg, 1.27 mmol) and cyclohexanamine (250.7 mg, 2.53 mmol), and the reaction was allowed to proceed with stirring overnight at 90° C. in an oil bath. The reaction mixture was cooled down to room temperature and diluted with water (150 mL). The mixture was extracted with ethyl acetate (3×80 mL), the organic layers combined and dried over magnesium sulfate, concentrated in vacuo to give the residue, which was purified by a silica gel column chromatography (1% ethyl acetate in petroleum ether) to afford methyl 3-(cyclohexylamino)-2-(4-fluorophenyl)quinoxaline-6-carboxylate as a light yellow solid (200 mg, 83%).

reactant | methyl 3-chloro-2-(4-fluorophenyl)quinoxaline-6-carboxylate | 0.63 mmol, 200 mg | ClC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=C(C=C1)F | C16H10ClFN2O2
reactant | DIEA | 1.27 mmol, 163.3 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | cyclohexanamine | 2.53 mmol, 250.7 mg | C1(CCCCC1)N | C6H13N
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
solvent | water | 150 mL | O | H2O
product | methyl 3-(cyclohexylamino)-2-(4-fluorophenyl)quinoxaline-6-carboxylate | 200 mg, 83% | C1(CCCCC1)NC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=C(C=C1)F | C22H22FN3O2
